US09340538B2
4-((6-(2-bromo-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Methyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (4.11 g, 8.4 mmol) (The compound was synthesized according to the procedure as described in WO2010069147A) was reacted with morpholine-3-carboxylic acid hydrochloride (1.4 g, 8.4 mmol) according to the procedure as described in Example 3 to give the title compound as a yellow solid (2.1 g, 46%). The compound was characterized by the following spectroscopic data:

reactant | Methyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 8.4 mmol, 4.11 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OC)CBr)C=1SC=CN1 | C16H12Br2FN3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 8.4 mmol, 1.4 g | Cl.N1C(COCC1)C(=O)O
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(methoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 2.1 g, 46% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)O)C(=O)OC | C21H20BrFN4O5S
